US04302584
147 g of 3-methyl-but-2-en-1-ol are added to 180 g of a mixture of 72.5% by weight of N,N-dimethylacetamide-dimethylacetal and 27.5% by weight of 1-dimethylamino-1-methoxyethylene, and the batch is brought to 144° C. in the course of 80 minutes, whilst at the same time distilling the resulting methanol from the reaction mixture. The batch is then heated for 100 minutes at 144°-154° C. Distillation through a short column gives 205 g (90%) of 3,3-dimethyl-pent-4-enoic acid N,N-dimethylamide (of boiling point 70° C./2.6 mbar), corresponding to a yield of 90% of theory.

reactant | 3-methyl-but-2-en-1-ol | 147 g | CC(=CCO)C | C5H10O
reactant | N,N-dimethylacetamide-dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
reactant | 1-dimethylamino-1-methoxyethylene | CN(C(=C)OC)C | C5H11NO
product | 3,3-dimethyl-pent-4-enoic acid N,N-dimethylamide | 205 g, 90% | CN(C(CC(C=C)(C)C)=O)C | C9H17NO
